US08048887B2
5-(3-Cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Cesium carbonate (187 mg, 0.575 mmol) was added to Pd(Ph3P)4 (22 mg, 0.019 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (160 mg, 0.383 mmol), 3-cyanophenylboronic acid (85 mg, 0.575 mmol). Dioxane (3 mL) and water (600 μL) was added at rt. The reaction was degassed 3× and heated to 90° C. overnight. It was allowed to cool. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. The crude residue was taken up in DCM. A white precipitate formed which was filtered to give the titled compound. The filtrate was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, Rf˜0.4: 50% EtOAc/Hex, fraction collection at λ=254 nm) to give the titled compound which was combined with the previously collected precipitate (85 mg, 60%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.46-8.53 (1H, m), 8.24 (1H, s), 8.09 (1H, d, J=7.93 Hz), 7.99-8.05 (2H, m), 7.96 (1H, d, J=1.53 Hz), 7.85 (1H, d, J=7.63 Hz), 7.74-7.82 (2H, m), 7.70 (1H, t, J=7.78 Hz), 7.40 (2H, t, J=8.85 Hz), 2.87 (3H, d, J=4.58 Hz). LC-MS retention time: 2.17 min; m/z (MH+): 371. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=13.59 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=12.29 min, purity=99%.

reactant | Cesium carbonate | 0.575 mmol, 187 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 0.383 mmol, 160 mg | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
reactant | 3-cyanophenylboronic acid | 0.575 mmol, 85 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.019 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 600 μL | O | H2O
product | 5-(3-Cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | C(#N)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H15FN2O2
